US05438052
(6R,7R)-7-(2-Amino-4-thiazoleglyoxylamido)-3-[[[2-[(3,4-dihydroxybenzenesulphonamido)methyl]-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid (0.05 g) and 0.02 g of 2-(aminooxy)-N-hydroxy-2-methylpropionamide hydrochloride are stirred in 0.5 ml of dimethylacetamide for 16 hours at room temperature. The dimethylacetamide is evaporated in a high vacuum, the residue is digested with water and the precipitate formed is filtered off and dried. There is obtained 0.015 g of (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[(1-hydroxycarbamoyl)-1-methylethoxy)imino]acetamido]-3-[[[2-[(3,4-dihydroxybenzenesulphonamido)methyl]-5-methyl-s-triazolo[1.5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid as a pale beige powder.

reactant | (6R,7R)-7-(2-Amino-4-thiazoleglyoxylamido)-3-[[[2-[(3,4-dihydroxybenzenesulphonamido)methyl]-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 0.05 g | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=CC(=NC=2N1N=C(N2)CNS(=O)(=O)C2=CC(=C(C=C2)O)O)C)=O | C26H23N9O9S4
reactant | 2-(aminooxy)-N-hydroxy-2-methylpropionamide hydrochloride | 0.02 g | Cl.NOC(C(=O)NO)(C)C
solvent | dimethylacetamide | 0.5 ml | CC(=O)N(C)C | C4H9NO
product | 3-[[[2-[(3,4-dihydroxybenzenesulphonamido)methyl]-5-methyl-s-triazolo[1.5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | OC=1C=C(C=CC1O)S(=O)(=O)NCC1=NN2C(N=C(C=C2SCC2=C(N3C(CC3SC2)=O)C(=O)O)C)=N1 | C21H20N6O7S3
